US07399868B2
A solution of N,N-dimethyl imidazole-1-sulfonamide (commercially available from Aldrich) (1.5 g, 8.57 mmol) in THF (35 mL) at −78° C. was treated with nBuLi (5.4 mL of a 1.6 M soln) for 1 h. Solid TBSCl: tert-butyldimethylsilyl chloride (1.29 g, 8.6 mmol) in THF (5 mL) was added at rt for 16 h. The mixture was cooled to −20° C. and treated with nBuLi (5.9 mL of a 1.6 M soln) for 1 h. Thiophene-2-carbaldehyde (commercially available from Aldrich) (0.96 mL, 10.3 mmol) in THF (10 mL) is added and the mixture was stirred for 3 h at rt. The mixture was washed with brine and dried over Na2SO4. The solvent was removed under vacuum and the residue was purified by chromatography on silical gel with 30% EtOAc: hexane to give 2-(tert-butyl-dimethyl-silanyl)-4-(hydroxy-thiophen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide (Intermediate-E1) 2.5 g.

reactant | N,N-dimethyl imidazole-1-sulfonamide | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
reactant | nBuLi | [Li]CCCC
reactant | TBSCl | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | tert-butyldimethylsilyl chloride | 8.6 mmol, 1.29 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Thiophene-2-carbaldehyde | S1C(=CC=C1)C=O | C5H4OS
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(tert-butyl-dimethyl-silanyl)-4-(hydroxy-thiophen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide | 2.5 g | CN(S(=O)(=O)N1C(=NC(=C1)C(C=1SC=CC1)O)[Si](C)(C)C(C)(C)C)C | C16H27N3O3S2Si
